US08859559B2
3,5-diamino-6-chloropyrazine-2-carboxylic acid
A mixture of methyl 3,5-diamino-6-chloropyrazine-2-carboxylate (100 g; 494 mmol), methanol (1 l) and NaOH (6 mol/l in water; 240 mL; 1.44 mol) is refluxed for 3 h. The mixture is allowed to cool to r.t. and then neutralized by addition of hydrochloric acid (6 mol/l in water; approx. 240 mL). Water (200 mL) is added. The precipitate formed is filtered off with suction, washed with water and dried at 60° C.

reactant | methyl 3,5-diamino-6-chloropyrazine-2-carboxylate | 494 mmol, 100 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)OC | C6H7ClN4O2
reactant | methanol | 1 l | CO | CH4O
reactant | NaOH | 1.44 mol, 6 mol/l, 240 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 mol/l, approx. 240 mL | Cl | ClH
solvent | Water | 200 mL | O | H2O
product | 3,5-diamino-6-chloropyrazine-2-carboxylic acid | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
